US04886810
In the same manner as described in Example 1, a mixture of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, cis-2,6-dimethylpiperazine, and dimethylformamide was stirred at room temperature for 24 hours to give 1-cyclopropyl-5,6,8-trifluoro-7-(cis-3,5-dimethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, which was recrystallized from chloroform-ethanol, m.p. 259°-260° C.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | cis-2,6-dimethylpiperazine | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-cyclopropyl-5,6,8-trifluoro-7-(cis-3,5-dimethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1C[C@H](N[C@H](C1)C)C)F)F)=O)C(=O)O | C19H20F3N3O3
